US08426404B2
Synthesis of [1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-(2-methyl-5-nitro-phenyl)-amine
A solution of 6-(2-chloro-benzoimidazol-1-yl)-pyrimidin-4-ylamine (110 mg, 0.45 mmol), 2-methyl-4-nitro-phenylamine (103 mg, 0.68 mmol), and MeSO3H (58.0 μL, 0.9 mmol) in 1,3-dimethyl-2-imidazolidinone (0.2 ml) is heated at 90° C. After stirring for 2 hours, the reaction mixture is cooled to room temperature and is treated with water (5 mL). Solid is collected via filtration and further purified by flash chromatography on silica gel (0% MeOH/Dichloromethane to 10% MeOH/Dichloromethane gradient). The title compound is obtained as white powder.

reactant | 6-(2-chloro-benzoimidazol-1-yl)-pyrimidin-4-ylamine | 0.45 mmol, 110 mg | ClC1=NC2=C(N1C1=CC(=NC=N1)N)C=CC=C2 | C11H8ClN5
reactant | 2-methyl-4-nitro-phenylamine | 0.68 mmol, 103 mg | CC1=C(C=CC(=C1)[N+](=O)[O-])N | C7H8N2O2
reactant | MeSO3H | 0.9 mmol, 58.0 μL | CS(=O)(=O)O | CH4O3S
reactant | water | 5 mL | O | H2O
reactant | 1,3-dimethyl-2-imidazolidinone | 0.2 ml | CN1C(N(CC1)C)=O | C5H10N2O
product | [1-(6-Amino-pyrimidin-4-yl)-1H-benzoimidazol-2-yl]-(2-methyl-5-nitro-phenyl)-amine | NC1=CC(=NC=N1)N1C(=NC2=C1C=CC=C2)NC2=C(C=CC(=C2)[N+](=O)[O-])C | C18H15N7O2
